US08003649B2
4-Methylmorpholine (17.56 mL, 159.70 mmol) was added dropwise to 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoic acid (25 g, 63.88 mmol) and 2-chloro-4,6-dimethoxy-1,3,5-triazine (13.46 g, 76.66 mmol) suspended in DMF (250 mL) at 0° C. The resulting suspension was stirred for 10 minutes, then 2-methoxy-N-methylethanamine (5.69 g, 63.88 mmol) was added and the mixture warmed to ambient temperature and stirred for 16 hours. The reaction mixture was concentrated and diluted with DCM (1000 mL) and washed with water (500 mL). The aqueous phase was re-extracted with DCM (500 mL), then the combined organics were washed with saturated NaHCO3 (500 mL) and saturated brine (250 mL), and dried over MgSO4, filtered and evaporated to afford crude product. The crude product was triturated with ether, and the resulting solid was collected by filtration and dried under vacuum, then purified by flash silica chromatography, elution gradient 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford N-(2-methoxyethyl)-N-methyl-4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzamide (23.45 g, 79%) as a solid.

reactant | 4-Methylmorpholine | 159.70 mmol, 17.56 mL | CN1CCOCC1 | C5H11NO
reactant | 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoic acid | 63.88 mmol, 25 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(C(=O)O)C=C2)(F)F | C18H16F3N5O2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 76.66 mmol, 13.46 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 2-methoxy-N-methylethanamine | 63.88 mmol, 5.69 g | COCCNC | C4H11NO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | N-(2-methoxyethyl)-N-methyl-4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzamide | 23.45 g, 79% | COCCN(C(C1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O)C | C22H25F3N6O2
